US04324627
3-Bromo-2-chloro-5-methylpyridine (30 g) in water (650 ml) containing potassium permanganate (60 g) was stirred and heated under reflux for 3 hours. Further potassium permanganate (20 g) was then added and the mixture heated and stirred for another 21/2 hours. The mixture was steam-distilled to remove unchanged starting material, and then filtered while hot. The residue was washed with hot water. The filtrate and washings were cooled and acidified with concentrated hydrochloric acid. The solid which separated was extracted with ether. The ether extract was dried and evaporated to give 3-bromo-2-chloropyridine-5-carboxylic acid.

reactant | 3-Bromo-2-chloro-5-methylpyridine | 30 g | BrC=1C(=NC=C(C1)C)Cl | C6H5BrClN
reactant | potassium permanganate | 60 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 20 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 650 ml | O | H2O
product | 3-bromo-2-chloropyridine-5-carboxylic acid | BrC=1C(=NC=C(C1)C(=O)O)Cl | C6H3BrClNO2
